US07049310B2
a) 2-Amino-5-bromo-3-[(2-methoxyethyl)aminomethyl]pyridine
2-Methoxyethylamine (1.49 mL, 17.16 mmole) was added to a solution of 2-amino-5-bromo-3-(bromomethyl)pyridine hydrobromide (1.49 g, 4.29 mmole) and DIEA (2.24 mL, 12.87 mmole) in CH2Cl2 (10 mL) at RT. The reaction was stirred overnight then was concentrated in vacuo. The residue was diluted with water and the solution was extracted with ethyl acetate. The combined organic extracts were washed with brine, dried over Na2SO4, and concentrated to afford the title compound (1.00 g, 90%) as a light brown liquid after drying in vacuo: MS (ES) m/e 260/262 (M+H)+.

reactant | 2-Methoxyethylamine | 17.16 mmole, 1.49 mL | COCCN | C3H9NO
reactant | 2-amino-5-bromo-3-(bromomethyl)pyridine hydrobromide | 4.29 mmole, 1.49 g | Br.NC1=NC=C(C=C1CBr)Br
reactant | DIEA | 12.87 mmole, 2.24 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-Amino-5-bromo-3-[(2-methoxyethyl)aminomethyl]pyridine | 1.00 g, 90% | NC1=NC=C(C=C1CNCCOC)Br | C9H14BrN3O
